US08633173B2
2-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (500.0 mg, 2.151 mmol) and 2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (475.0 mg, 2.372 mmol) in a manner analogous to Example 2d. Product isolated as a yellow viscous oil (0.411 g, 54%). MS=374, 376 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.151 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.372 mmol, 475.0 mg | C(C)(C)(C)OC(=O)N1C(CCC1)CN | C10H20N2O2
product | 2-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)CNC=1C=2N(C=CC1)N=C(N2)Cl | C16H22ClN5O2
